US08957064B2
5-fluoro-2-piperidin-4-yl-1H-benzoimidazole hydrochloride salt
Thus, 10 g of the crude 5-fluoro-2-piperidin-4-yl-1H-benzoimidazole was dissolved in MeOH (85 mL) and a solution of HCl in dioxane (20 mL) was added dropwise, and the title compound was obtained by filtration.

reactant | 5-fluoro-2-piperidin-4-yl-1H-benzoimidazole | 10 g | FC1=CC2=C(NC(=N2)C2CCNCC2)C=C1 | C12H14FN3
reactant | HCl | Cl | ClH
solvent | MeOH | 85 mL | CO | CH4O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-fluoro-2-piperidin-4-yl-1H-benzoimidazole hydrochloride salt | Cl.FC1=CC2=C(NC(=N2)C2CCNCC2)C=C1 | InChI=1S/C12H14FN3.ClH/c13-9-1-2-10-11(7-9)16-12(15-10)8-3-5-14-6-4-8;/h1-2,7-8,14H,3-6H2,(H,15,16);1H
